US09447083B2
2-bromo-4-fluoro-6-methylphenol (337 mg, 1.20 mmol), 3-furanylboronic acid (162 mg, 1.45 mmol), Pd(dppf)Cl2 (98.3 mg, 0.12 mmol) and sodium carbonate (383 mg, 3.61 mmol) were dissolved in DME:water=20 mL:10 mL, followed by stirring in microwave at 120° C. for 20 minutes. The reaction mixture was filtered through Celite. The filtrate was concentrated under reduced pressure, and purified by column chromatography (silica gel; hexane/ethyl acetate, 9/1) to obtain 4-fluoro-2-(furan-3-yl)-6-methylphenol (96 mg, 30%) as a yellow oil.

reactant | 2-bromo-4-fluoro-6-methylphenol | 1.20 mmol, 337 mg | BrC1=C(C(=CC(=C1)F)C)O | C7H6BrFO
reactant | 3-furanylboronic acid | 1.45 mmol, 162 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 3.61 mmol, 383 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 98.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-fluoro-2-(furan-3-yl)-6-methylphenol | 96 mg, 30% | FC1=CC(=C(C(=C1)C)O)C1=COC=C1 | C11H9FO2
